US07141671B2
Methyl 5-acetylsalicylate (100 g, 0.515 mol) was dissolved in acetonitrile (1 L) in a 2 L flask under reflux conditions and a nitrogen atmosphere. Potassium carbonate (213.5 g, 1.545 mol) was added portion-wise over 15 min. Benzyl bromide (67.4 mL, 0.566 mol) was added using a dropping funnel over 15 min. The reaction was heated to 85° C. for 9 h, and then filtered and rinsed with acetonitrile (100 mL). The solution was concentrated to about 300 mL volume under reduced pressure and partitioned between water (1 L) and ethyl acetate (1 L). The organic layer was washed with saturated sodium chloride (250 mL), dried using magnesium sulfate (75 g), and then filtered and rinsed with ethyl acetate (100 mL). The organic layer was concentrated to give 2-benzyloxy-5-acetylbenzoic acid methyl ester as a solid (100% yield).

reactant | Methyl 5-acetylsalicylate | 0.515 mol, 100 g | C(C)(=O)C1=CC=C(C(C(=O)OC)=C1)O | C10H10O4
reactant | Potassium carbonate | 1.545 mol, 213.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | Benzyl bromide | 0.566 mol, 67.4 mL | C(C1=CC=CC=C1)Br | C7H7Br
solvent | acetonitrile | 1 L | C(C)#N | C2H3N
product | 2-benzyloxy-5-acetylbenzoic acid methyl ester | 100% yield | COC(C1=C(C=CC(=C1)C(C)=O)OCC1=CC=CC=C1)=O | C17H16O4
